US06284923B1
4-Azido-1-[(4-dimethylamino-3-methoxyphenyl)aminosulfonyl]-2,3,5,6-tetrafluoro-benzene.
4-Dimethylamino-3-methoxyaniline (1.66 g, 10 mmol) is added to a solution of 4-azido-2,3,5,6-tetrafluorophenylsulfonyl chloride (3.47 g, 12 mmol) in MeOH (20 ml) at ambient temperature. After stirring at room temperature for 15 min, the reaction mixture is concentrated under reduced pressure and the residue is taken up in ethyl acetate and filtered through a pad of silica gel. Concentration of the filtrate, followed by chromatography, provides the title compound.

reactant | 4-Dimethylamino-3-methoxyaniline | 10 mmol, 1.66 g | CN(C1=C(C=C(N)C=C1)OC)C | C9H14N2O
reactant | 4-azido-2,3,5,6-tetrafluorophenylsulfonyl chloride | 12 mmol, 3.47 g | N(=[N+]=[N-])C1=C(C(=C(C(=C1F)F)S(=O)(=O)Cl)F)F | C6ClF4N3O2S
solvent | MeOH | 20 ml | CO | CH4O
product | 4-Azido-1-[(4-dimethylamino-3-methoxyphenyl)aminosulfonyl]-2,3,5,6-tetrafluoro-benzene | N(=[N+]=[N-])C1=C(C(=C(C(=C1F)F)S(=O)(=O)NC1=CC(=C(C=C1)N(C)C)OC)F)F | C15H13F4N5O3S
